### PR TITLE
feat: bump to 4.16.0rc2

### PR DESCRIPTION
**Pull request by sgouezel**
I've upstreamed several things already, so this makes for a nice cleanup.

### CODE REVIEW

File: Carleson/Discrete/SumEstimates.lean [hunk 1]
```diff
@@ -1,4 +1,4 @@
-import Carleson.ToMathlib.Analysis.SumIntegralComparisons
+import Mathlib.Analysis.SumIntegralComparisons
 import Mathlib.Analysis.SpecialFunctions.Integrals
```
Comment (grunweg) [inline Carleson/Discrete/SumEstimates.lean:2]: Should this file move to `ToMathlib`? (Are there are sorries left? I didn't check.)

If so, can you add a TODO comment (no need to move now)?

File: Carleson/ForestOperator/AlmostOrthogonality.lean [hunk 2]
```diff
@@ -285,13 +285,13 @@ lemma adjoint_tree_estimate (hu : u ∈ t) (hf : BoundedCompactSupport f) :
     eLpNorm (adjointCarlesonSum (t u) f) 2 volume ≤
     C7_4_2 a * dens₁ (t u) ^ (2 : ℝ)⁻¹ * eLpNorm f 2 volume := by
   rw [C7_4_2_def]
-  let g := adjointCarlesonSum (t u) f
+  set g := adjointCarlesonSum (t u) f with h'g
```
Comment (grunweg) [inline Carleson/ForestOperator/AlmostOrthogonality.lean:288]: This is not needed, right?

File: Carleson/RealInterpolation.lean [hunk 3]
```diff
@@ -2486,7 +2486,7 @@ lemma estimate_trnc {p₀ q₀ q : ℝ} {spf : ScaledPowerFunction} {j : Bool}
     (p₀⁻¹ * q₀) := by
   have := spf.hd
   unfold eLpNorm eLpNorm'
-  let tc := spf_to_tc spf
+  set tc := spf_to_tc spf with htc
```
Comment (grunweg) [inline Carleson/RealInterpolation.lean:2489]: Not needed, right?

**Review by grunweg — COMMENTED** [review]
Thanks a lot for your PR! Looks good to me, just three small comments.
@fpvandoorn maintainer merge (i.e., you may want to take a look)

File: Carleson/Discrete/SumEstimates.lean (hunk 1 above)
Comment (sgouezel) [reply Carleson/Discrete/SumEstimates.lean:2]: It looks a little bit too specialized to me for mathlib.

File: Carleson/ForestOperator/AlmostOrthogonality.lean (hunk 2 above)
Comment (sgouezel) [reply Carleson/ForestOperator/AlmostOrthogonality.lean:288]: The `set` instead of `let` is necessary, but the `with` clause is not so I've removed it.

File: Carleson/RealInterpolation.lean (hunk 3 above)
Comment (sgouezel) [reply Carleson/RealInterpolation.lean:2489]: Again, the `set` is necessary, but the `with` clause is not so I've removed it.

**Review by pitmonticone — APPROVED** [review]

**Comment by fpvandoorn** [comment]
Thanks! I'm just going to hope there is no semantic merge conflict with the previous just-merged PR.

**Comment by fpvandoorn** [comment]
Oh that was a mistake. If someone can fix the build, that would be great.

**Comment by sgouezel** [comment]
I'll fix it.

**Comment by sgouezel** [comment]
Fix at https://github.com/fpvandoorn/carleson/pull/207
